US04988698
6-[4-(2-tert-Butoxycarbonylamino-4-methylthiazole-5-carbonyl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone (1.2 g) was dissolved in formic acid (25 ml) and the solution was stirred for 4 hours at ambient temperature. After the solvent was removed, ethyl acetate (10 ml) and water (10 ml) was added to the residue and the mixture was adjusted to pH 4.5 with 10% aqueous solution of potassium carbonate. The resulting precipitate was collected and recrystallized from methanol-water to give 6-[4-(2-amino-4-methylthiazole-5-carbonyl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone (0.9 g).

reactant | 6-[4-(2-tert-Butoxycarbonylamino-4-methylthiazole-5-carbonyl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone | 1.2 g | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C)C(=O)N1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C23H29N5O4S
solvent | formic acid | 25 ml | C(=O)O | CH2O2
product | 6-[4-(2-amino-4-methylthiazole-5-carbonyl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone | 0.9 g | NC=1SC(=C(N1)C)C(=O)N1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C18H21N5O2S
